US07279600B2
4′-{[Tert-butyl(dimethyl)silyl]oxy}-2-fluoro-[1,1′-biphenyl]-4-carbaldehyde oxime
The title compound was prepared by reacting 4′-{[tert-butyl(dimethyl)silyl]oxy}-2-fluoro-1,1′-biphenyl-4-carbaldehyde (450 mg, 1.36 mmol) with hydroxylamine hydrochloride (190 mg, 2.73 mmol) according to Method C to yield a white solid which was used in the next step without purification: MS (ESI) m/z 344 (M−H)−, 346 (M+H)+.

reactant | 4′-{[tert-butyl(dimethyl)silyl]oxy}-2-fluoro-1,1′-biphenyl-4-carbaldehyde | 1.36 mmol, 450 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=C(C=C(C=C1)C=O)F | C19H23FO2Si
reactant | hydroxylamine hydrochloride | 2.73 mmol, 190 mg | Cl.NO
product | 4′-{[Tert-butyl(dimethyl)silyl]oxy}-2-fluoro-[1,1′-biphenyl]-4-carbaldehyde oxime | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=C(C=C(C=C1)C=NO)F | C19H24FNO2Si
